US03944589
To a solution of 7 g of p-(1-cyclohexenyl)-phenylbromide in 100 ml of absolute ether there is added at 5° C, while stirring and in an atmosphere of nitrogen, 50 ml of a solution of 4.3 g of n-butyl-lithium in absolute ether. The mixture is allowed to reach room temperature, stirred for 30 minutes at 30° C, then cooled to 20° C and a solution of 4 g of N-methyl-N-formyl-aniline in 50 ml of absolute ether is added dropwise, when the internal temperature rises to 30° C. After the reaction mixture has been allowed to continue to react for 30 minutes at room temperature, it is poured into 100 ml of ice cold 2N hydrochloric acid and extracted with ether. The ether layers are washed with water, dried over sodium sulphate and evaporated in vacuo. The residue is distilled under a high vacuum and yields the p-(1-cyclohexenyl)-benzaldehyde having a boiling point of 110°-120° C (0.2 mm Hg).

reactant | p-(1-cyclohexenyl)-phenylbromide | 7 g | C1(=CCCCC1)C1=CC=C(C=C1)Br | C12H13Br
reactant | n-butyl-lithium | 4.3 g | C(CCC)[Li]
reactant | N-methyl-N-formyl-aniline | 4 g | CN(C1=CC=CC=C1)C=O | C8H9NO
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | p-(1-cyclohexenyl)-benzaldehyde | C1(=CCCCC1)C1=CC=C(C=O)C=C1 | C13H14O
